* +++++++++++++++++++++++++++++++++++++++++++++++++++++++++ *
* CDL Netlist:                                              *
*                                                           *
* Cell Name  : Proposed_STC_DET                             *
* Netlisted  : Mon Apr 13 06:44:35 2026                     *
* PVS Version: 24.10-p035 Thu Aug 22 18:07:17 PDT 2024      *
* +++++++++++++++++++++++++++++++++++++++++++++++++++++++++ *
*.LDD
*.DEVTMPLT 0 MN(g45n1svt) _nmos1v ndiff_conn(D) poly_conn(G) ndiff_conn(S) psubstrate(B)
*.DEVTMPLT 1 MP(g45p1svt) _pmos1v pdiff_conn(D) poly_conn(G) pdiff_conn(S) nwell_conn(B)

* +++++++++++++++++++++++++++++++++++++++++++++++++++++++++ *
* Sub cell: M1_PO_CDNS_776077074430                         *
* +++++++++++++++++++++++++++++++++++++++++++++++++++++++++ *
.subckt M1_PO_CDNS_776077074430 1
** N=1 EP=1 FDC=0
.ends M1_PO_CDNS_776077074430

* +++++++++++++++++++++++++++++++++++++++++++++++++++++++++ *
* Sub cell: M2_M1_CDNS_776077074431                         *
* +++++++++++++++++++++++++++++++++++++++++++++++++++++++++ *
.subckt M2_M1_CDNS_776077074431 1
** N=1 EP=1 FDC=0
.ends M2_M1_CDNS_776077074431

* +++++++++++++++++++++++++++++++++++++++++++++++++++++++++ *
* Sub cell: nmos1v_3_CDNS_776077074430                      *
* +++++++++++++++++++++++++++++++++++++++++++++++++++++++++ *
.subckt nmos1v_3_CDNS_776077074430 S_source_0 D_drain_1 B_botTap 4
** N=4 EP=4 FDC=1
M0 D_drain_1 4 S_source_0 B_botTap g45n1svt L=4.5e-08 W=3e-07 AD=4.2e-14 AS=4.2e-14 PD=8.8e-07 PS=8.8e-07 fw=3e-07 sa=1.4e-07 sb=1.4e-07 sca=3.45234 scb=0.000105824 scc=3.48932e-09 $X=0 $Y=0 $dt=0
.ends nmos1v_3_CDNS_776077074430

* +++++++++++++++++++++++++++++++++++++++++++++++++++++++++ *
* Sub cell: pmos1v_3_CDNS_776077074431                      *
* +++++++++++++++++++++++++++++++++++++++++++++++++++++++++ *
.subckt pmos1v_3_CDNS_776077074431 S_source_0 D_drain_1 B_topTap 4 5
** N=5 EP=5 FDC=1
M0 D_drain_1 4 S_source_0 B_topTap g45p1svt L=4.5e-08 W=6e-07 AD=8.4e-14 AS=8.4e-14 PD=1.48e-06 PS=1.48e-06 fw=6e-07 sa=1.4e-07 sb=1.4e-07 sca=69.3272 scb=0.0652205 scc=0.00809762 $X=0 $Y=0 $dt=1
.ends pmos1v_3_CDNS_776077074431

* +++++++++++++++++++++++++++++++++++++++++++++++++++++++++ *
* Sub cell: Proposed_STC_DET                                *
* +++++++++++++++++++++++++++++++++++++++++++++++++++++++++ *
.subckt Proposed_STC_DET D Q_b clk gnd vdd
** N=25 EP=5 FDC=42
X0 D M1_PO_CDNS_776077074430 $T=3120 26190 0 0 $X=3020 $Y=26070
X1 2 M1_PO_CDNS_776077074430 $T=5020 25140 0 0 $X=4920 $Y=25020
X2 3 M1_PO_CDNS_776077074430 $T=7000 7630 0 0 $X=6900 $Y=7510
X3 D M1_PO_CDNS_776077074430 $T=8000 27240 0 0 $X=7900 $Y=27120
X4 clk M1_PO_CDNS_776077074430 $T=11900 12000 0 0 $X=11800 $Y=11880
X5 5 M1_PO_CDNS_776077074430 $T=18820 11580 0 0 $X=18720 $Y=11460
X6 6 M1_PO_CDNS_776077074430 $T=19170 27280 0 0 $X=19070 $Y=27160
X7 7 M1_PO_CDNS_776077074430 $T=20000 9310 0 0 $X=19900 $Y=9190
X8 2 M1_PO_CDNS_776077074430 $T=20610 22720 0 0 $X=20510 $Y=22600
X9 8 M1_PO_CDNS_776077074430 $T=23060 27660 0 0 $X=22960 $Y=27540
X10 D M1_PO_CDNS_776077074430 $T=23400 13180 0 0 $X=23300 $Y=13060
X11 9 M1_PO_CDNS_776077074430 $T=27080 7950 0 0 $X=26980 $Y=7830
X12 10 M1_PO_CDNS_776077074430 $T=27120 17750 0 0 $X=27020 $Y=17630
X13 11 M1_PO_CDNS_776077074430 $T=28000 22730 0 0 $X=27900 $Y=22610
X14 7 M1_PO_CDNS_776077074430 $T=28490 20150 0 0 $X=28390 $Y=20030
X15 5 M1_PO_CDNS_776077074430 $T=30850 9780 0 0 $X=30750 $Y=9660
X16 7 M1_PO_CDNS_776077074430 $T=30910 27630 0 0 $X=30810 $Y=27510
X17 3 M1_PO_CDNS_776077074430 $T=31790 26430 0 0 $X=31690 $Y=26310
X18 7 M1_PO_CDNS_776077074430 $T=32780 7810 0 0 $X=32680 $Y=7690
X19 5 M1_PO_CDNS_776077074430 $T=33340 11580 0 0 $X=33240 $Y=11460
X20 5 M1_PO_CDNS_776077074430 $T=33400 27030 0 0 $X=33300 $Y=26910
X21 11 M1_PO_CDNS_776077074430 $T=34960 19060 0 0 $X=34860 $Y=18940
X22 8 M1_PO_CDNS_776077074430 $T=36890 16520 0 0 $X=36790 $Y=16400
X23 11 M1_PO_CDNS_776077074430 $T=37030 7410 0 0 $X=36930 $Y=7290
X24 8 M1_PO_CDNS_776077074430 $T=37790 26890 0 0 $X=37690 $Y=26770
X25 10 M1_PO_CDNS_776077074430 $T=38790 17750 0 0 $X=38690 $Y=17630
X26 10 M1_PO_CDNS_776077074430 $T=39000 8400 0 0 $X=38900 $Y=8280
X27 10 M1_PO_CDNS_776077074430 $T=39050 23160 0 0 $X=38950 $Y=23040
X28 11 M1_PO_CDNS_776077074430 $T=39400 27630 0 0 $X=39300 $Y=27510
X29 12 M1_PO_CDNS_776077074430 $T=40950 24890 0 0 $X=40850 $Y=24770
X30 12 M1_PO_CDNS_776077074430 $T=41040 9300 0 0 $X=40940 $Y=9180
X31 D M2_M1_CDNS_776077074431 $T=3120 25150 0 0 $X=3040 $Y=25020
X32 2 M2_M1_CDNS_776077074431 $T=4990 22720 0 0 $X=4910 $Y=22590
X33 D M2_M1_CDNS_776077074431 $T=6840 23990 0 0 $X=6760 $Y=23860
X34 3 M2_M1_CDNS_776077074431 $T=6940 21470 0 0 $X=6860 $Y=21340
X35 7 M2_M1_CDNS_776077074431 $T=9030 24000 0 0 $X=8950 $Y=23870
X36 7 M2_M1_CDNS_776077074431 $T=9030 28580 0 0 $X=8950 $Y=28450
X37 clk M2_M1_CDNS_776077074431 $T=10010 12000 0 0 $X=9930 $Y=11870
X38 7 M2_M1_CDNS_776077074431 $T=10030 20150 0 0 $X=9950 $Y=20020
X39 13 M2_M1_CDNS_776077074431 $T=10960 8620 0 0 $X=10880 $Y=8490
X40 14 M2_M1_CDNS_776077074431 $T=13590 27630 0 0 $X=13510 $Y=27500
X41 15 M2_M1_CDNS_776077074431 $T=14200 25560 0 0 $X=14120 $Y=25430
X42 16 M2_M1_CDNS_776077074431 $T=15020 7920 0 0 $X=14940 $Y=7790
X43 17 M2_M1_CDNS_776077074431 $T=15020 9310 0 0 $X=14940 $Y=9180
X44 18 M2_M1_CDNS_776077074431 $T=16200 10300 0 0 $X=16120 $Y=10170
X45 19 M2_M1_CDNS_776077074431 $T=16200 26610 0 0 $X=16120 $Y=26480
X46 17 M2_M1_CDNS_776077074431 $T=19040 9310 0 0 $X=18960 $Y=9180
X47 2 M2_M1_CDNS_776077074431 $T=19320 22720 0 0 $X=19240 $Y=22590
X48 6 M2_M1_CDNS_776077074431 $T=19430 24130 0 0 $X=19350 $Y=24000
X49 5 M2_M1_CDNS_776077074431 $T=19450 11580 0 0 $X=19370 $Y=11450
X50 7 M2_M1_CDNS_776077074431 $T=20000 20150 0 0 $X=19920 $Y=20020
X51 12 M2_M1_CDNS_776077074431 $T=20200 24890 0 0 $X=20120 $Y=24760
X52 12 M2_M1_CDNS_776077074431 $T=21030 9300 0 0 $X=20950 $Y=9170
X53 D M2_M1_CDNS_776077074431 $T=22570 13180 0 0 $X=22490 $Y=13050
X54 8 M2_M1_CDNS_776077074431 $T=23030 16510 0 0 $X=22950 $Y=16380
X55 16 M2_M1_CDNS_776077074431 $T=23040 7920 0 0 $X=22960 $Y=7790
X56 11 M2_M1_CDNS_776077074431 $T=24800 22730 0 0 $X=24720 $Y=22600
X57 11 M2_M1_CDNS_776077074431 $T=24950 19060 0 0 $X=24870 $Y=18930
X58 11 M2_M1_CDNS_776077074431 $T=26740 22730 0 0 $X=26660 $Y=22600
X59 19 M2_M1_CDNS_776077074431 $T=27010 26610 0 0 $X=26930 $Y=26480
X60 7 M2_M1_CDNS_776077074431 $T=27120 20150 0 0 $X=27040 $Y=20020
X61 9 M2_M1_CDNS_776077074431 $T=27190 13140 0 0 $X=27110 $Y=13010
X62 12 M2_M1_CDNS_776077074431 $T=28200 9300 0 0 $X=28120 $Y=9170
X63 12 M2_M1_CDNS_776077074431 $T=28200 24890 0 0 $X=28120 $Y=24760
X64 10 M2_M1_CDNS_776077074431 $T=28460 17750 0 0 $X=28380 $Y=17620
X65 3 M2_M1_CDNS_776077074431 $T=31110 21470 0 0 $X=31030 $Y=21340
X66 5 M2_M1_CDNS_776077074431 $T=32390 11580 0 0 $X=32310 $Y=11450
X67 13 M2_M1_CDNS_776077074431 $T=32990 7130 0 0 $X=32910 $Y=7000
X68 11 M2_M1_CDNS_776077074431 $T=33030 19060 0 0 $X=32950 $Y=18930
X69 8 M2_M1_CDNS_776077074431 $T=35040 16520 0 0 $X=34960 $Y=16390
X70 10 M2_M1_CDNS_776077074431 $T=36850 17750 0 0 $X=36770 $Y=17620
X71 15 M2_M1_CDNS_776077074431 $T=38790 25560 0 0 $X=38710 $Y=25430
X72 12 M2_M1_CDNS_776077074431 $T=38890 24890 0 0 $X=38810 $Y=24760
X73 12 M2_M1_CDNS_776077074431 $T=39000 9300 0 0 $X=38920 $Y=9170
X74 18 M2_M1_CDNS_776077074431 $T=40840 10300 0 0 $X=40760 $Y=10170
X75 9 M2_M1_CDNS_776077074431 $T=40890 13140 0 0 $X=40810 $Y=13010
X76 6 M2_M1_CDNS_776077074431 $T=40940 24130 0 0 $X=40860 $Y=24000
X77 14 M2_M1_CDNS_776077074431 $T=41230 27630 0 0 $X=41150 $Y=27500
X78 gnd 2 gnd D nmos1v_3_CDNS_776077074430 $T=3950 6200 0 0 $X=3530 $Y=5640
X79 gnd 3 gnd 2 nmos1v_3_CDNS_776077074430 $T=6040 6200 1 180 $X=5530 $Y=5640
X80 gnd 7 gnd 3 nmos1v_3_CDNS_776077074430 $T=7950 6200 0 0 $X=7530 $Y=5640
X81 gnd 13 gnd clk nmos1v_3_CDNS_776077074430 $T=9950 6200 0 0 $X=9530 $Y=5640
X82 gnd 17 gnd clk nmos1v_3_CDNS_776077074430 $T=11950 6200 0 0 $X=11530 $Y=5640
X83 gnd 16 gnd clk nmos1v_3_CDNS_776077074430 $T=13950 6200 0 0 $X=13530 $Y=5640
X84 gnd 18 gnd clk nmos1v_3_CDNS_776077074430 $T=15950 6200 0 0 $X=15530 $Y=5640
X85 17 6 gnd 5 nmos1v_3_CDNS_776077074430 $T=18040 6200 1 180 $X=17530 $Y=5640
X86 17 12 gnd 7 nmos1v_3_CDNS_776077074430 $T=19950 6200 0 0 $X=19530 $Y=5640
X87 16 8 gnd 2 nmos1v_3_CDNS_776077074430 $T=22040 6200 1 180 $X=21530 $Y=5640
X88 16 11 gnd D nmos1v_3_CDNS_776077074430 $T=23950 6200 0 0 $X=23530 $Y=5640
X89 gnd 9 gnd 10 nmos1v_3_CDNS_776077074430 $T=26040 6200 1 180 $X=25530 $Y=5640
X90 gnd 12 gnd 9 nmos1v_3_CDNS_776077074430 $T=27950 6200 0 0 $X=27530 $Y=5640
X91 gnd 5 gnd 7 nmos1v_3_CDNS_776077074430 $T=29950 6200 0 0 $X=29530 $Y=5640
X92 13 3 gnd 7 nmos1v_3_CDNS_776077074430 $T=32040 6200 1 180 $X=31530 $Y=5640
X93 13 7 gnd 5 nmos1v_3_CDNS_776077074430 $T=33950 6200 0 0 $X=33530 $Y=5640
X94 gnd 10 gnd 11 nmos1v_3_CDNS_776077074430 $T=35950 6200 0 0 $X=35530 $Y=5640
X95 21 11 gnd 8 nmos1v_3_CDNS_776077074430 $T=38040 6200 1 180 $X=37530 $Y=5640
X96 gnd 21 gnd 10 nmos1v_3_CDNS_776077074430 $T=40040 6200 1 180 $X=39530 $Y=5640
X97 18 9 gnd 12 nmos1v_3_CDNS_776077074430 $T=41950 6200 0 0 $X=41530 $Y=5640
X98 gnd Q_b gnd 12 nmos1v_3_CDNS_776077074430 $T=43950 6200 0 0 $X=43530 $Y=5640
X99 vdd 2 vdd D gnd pmos1v_3_CDNS_776077074431 $T=3950 28600 0 0 $X=3530 $Y=28400
X100 24 3 vdd 2 gnd pmos1v_3_CDNS_776077074431 $T=6040 28600 1 180 $X=5530 $Y=28400
X101 24 7 vdd D gnd pmos1v_3_CDNS_776077074431 $T=7950 28600 0 0 $X=7530 $Y=28400
X102 vdd 24 vdd clk gnd pmos1v_3_CDNS_776077074431 $T=9950 28600 0 0 $X=9530 $Y=28400
X103 vdd 14 vdd clk gnd pmos1v_3_CDNS_776077074431 $T=11950 28600 0 0 $X=11530 $Y=28400
X104 vdd 15 vdd clk gnd pmos1v_3_CDNS_776077074431 $T=13950 28600 0 0 $X=13530 $Y=28400
X105 vdd 19 vdd clk gnd pmos1v_3_CDNS_776077074431 $T=15950 28600 0 0 $X=15530 $Y=28400
X106 vdd 6 vdd 5 gnd pmos1v_3_CDNS_776077074431 $T=17950 28600 0 0 $X=17530 $Y=28400
X107 vdd 12 vdd 6 gnd pmos1v_3_CDNS_776077074431 $T=19950 28600 0 0 $X=19530 $Y=28400
X108 vdd 8 vdd 2 gnd pmos1v_3_CDNS_776077074431 $T=22040 28600 1 180 $X=21530 $Y=28400
X109 vdd 11 vdd 8 gnd pmos1v_3_CDNS_776077074431 $T=23950 28600 0 0 $X=23530 $Y=28400
X110 19 9 vdd 10 gnd pmos1v_3_CDNS_776077074431 $T=26040 28600 1 180 $X=25530 $Y=28400
X111 19 12 vdd 11 gnd pmos1v_3_CDNS_776077074431 $T=27950 28600 0 0 $X=27530 $Y=28400
X112 vdd 5 vdd 7 gnd pmos1v_3_CDNS_776077074431 $T=29950 28600 0 0 $X=29530 $Y=28400
X113 25 7 vdd 3 gnd pmos1v_3_CDNS_776077074431 $T=32040 28600 1 180 $X=31530 $Y=28400
X114 vdd 25 vdd 5 gnd pmos1v_3_CDNS_776077074431 $T=34040 28600 1 180 $X=33530 $Y=28400
X115 vdd 10 vdd 11 gnd pmos1v_3_CDNS_776077074431 $T=35950 28600 0 0 $X=35530 $Y=28400
X116 15 8 vdd 11 gnd pmos1v_3_CDNS_776077074431 $T=38040 28600 1 180 $X=37530 $Y=28400
X117 15 11 vdd 10 gnd pmos1v_3_CDNS_776077074431 $T=39950 28600 0 0 $X=39530 $Y=28400
X118 14 6 vdd 12 gnd pmos1v_3_CDNS_776077074431 $T=41950 28600 0 0 $X=41530 $Y=28400
X119 vdd Q_b vdd 12 gnd pmos1v_3_CDNS_776077074431 $T=43950 28600 0 0 $X=43530 $Y=28400
.ends Proposed_STC_DET
