

***********************************************************
* CDL produced by pvsBuildNetlist on Apr 15 06:18:49 2026 *
***********************************************************


*pvsViewList = auCdl schematic
*pvsStopList = ("auCdl")
*pvsSimName  = auCdl



*.EXPAND_ON_M_FACTOR
*.MEGA



.subckt S_DET CLK D Q gnd vdd
*PVSCELL netlisted from DETFF S_DET schematic
  MNM12 CKB CLK gnd gnd g45n1svt m=1 l=45n w=300n
  MNM13 net16 net4 net12 gnd g45n1svt m=1 l=45n w=300n
  MNM14 net12 CKI gnd gnd g45n1svt m=1 l=45n w=300n
  MNM15 CKI CKB gnd gnd g45n1svt m=1 l=45n w=300n
  MNM16 D CKI net23 gnd g45n1svt m=1 l=45n w=300n
  MNM17 net24 net23 gnd gnd g45n1svt m=1 l=45n w=300n
  MNM18 net24 net23 net27 gnd g45n1svt m=1 l=45n w=300n
  MNM19 net27 CKB gnd gnd g45n1svt m=1 l=45n w=300n
  MNM2 D CKB net4 gnd g45n1svt m=1 l=45n w=300n
  MNM20 net24 CKB net20 gnd g45n1svt m=1 l=45n w=300n
  MNM21 Q net20 gnd gnd g45n1svt m=1 l=45n w=300n
  MNM3 net16 CKI net20 gnd g45n1svt m=1 l=45n w=300n
  MNM6 net16 net4 gnd gnd g45n1svt m=1 l=45n w=300n
  MPM10 net16 net4 net5 vdd g45p1svt m=1 l=45n w=600n
  MPM11 net4 CKI D vdd g45p1svt m=1 l=45n w=600n
  MPM12 net20 CKB net16 vdd g45p1svt m=1 l=45n w=600n
  MPM13 CKI CKB vdd vdd g45p1svt m=1 l=45n w=600n
  MPM14 net24 net23 net18 vdd g45p1svt m=1 l=45n w=600n
  MPM15 net18 CKI vdd vdd g45p1svt m=1 l=45n w=600n
  MPM16 net23 CKB D vdd g45p1svt m=1 l=45n w=600n
  MPM17 net24 net23 vdd vdd g45p1svt m=1 l=45n w=600n
  MPM18 net20 CKI net24 vdd g45p1svt m=1 l=45n w=600n
  MPM19 Q net20 vdd vdd g45p1svt m=1 l=45n w=600n
  MPM2 net16 net4 vdd vdd g45p1svt m=1 l=45n w=600n
  MPM8 CKB CLK vdd vdd g45p1svt m=1 l=45n w=600n
  MPM9 net5 CKB vdd vdd g45p1svt m=1 l=45n w=600n
.ends S_DET


***********************************************************
*             Completed at Apr 15 06:18:49 2026           *
***********************************************************
